US08071593B2
Preparation of 3-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic acid
A mixture of 614 g (3.41 mol) of 3-(N-hydroxycarbamimidoyl)benzoic acid, 756 ml (8.0 mol) of acetic anhydride and 2 l of acetic acid is heated at a temperature of 118° C. for 14 hours. The reaction mixture is cooled to 6° C. and filtered with suction. The residue is taken up in 2 l of water, filtered off with suction and washed well with water. The residue is recrystallised from ethanol/water: 3-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic acid as colourless crystals; m.p. 225° C.; ESI 205 (M+H).

reactant | 3-(N-hydroxycarbamimidoyl)benzoic acid | 3.41 mol, 614 g | ONC(=N)C=1C=C(C(=O)O)C=CC1 | C8H8N2O3
reactant | acetic anhydride | 8.0 mol, 756 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 2 l | C(C)(=O)O | C2H4O2
product | 3-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic acid | CC1=NC(=NO1)C=1C=C(C(=O)O)C=CC1 | C10H8N2O3
